Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm really fine"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old female ___ student with a history
of depression, anxiety, self injurious behavior and two suicide
attempts by cutting, who was sent in on a S12 after parents
called campus police due to concern for patient's safety. 

Patient initially reports feeling fine and then says that she is
really depressed and stressed. She reports dealing with and
managing depression her whole life and denies any worsening of
mood today or recently. She is stressed about finals but says
that everyone else is too. She endorses longstanding decreased
interest, motivation, and concentration. She attributes this to
her ADHD. She reports difficulty falling asleep until 3am and
then sleeps ___ hours in the early morning and daytime. She
denies current suicidal ideation, intent, or plan. She says that
she last cut two weeks ago but could not describe why. She is
unsure whether it was a suicide attempt and says "it wasn't deep
enough." She reports cutting her wrists since she was ___ 
years
old and says that "it numbs me out." 

Patient says that her parents freaked out and called the ___
police today after they called patient's cell phone and she did
not pick answer. Patient had an appointment with her therapist
today that she reports sleeping through. Patient's therapist
reached out to her parents due to concern when patient did not
show up. Patient's parents then tried to call patient and when
they couldn't reach her, they called the campus police to do a
safety check. 

She denies a history of decreased need for sleep, increased goal
directed behavior, racing thoughts and risky behavior. She 
denies
a history of auditory and visual hallucinations, paranoia,
TC/TB/TI. She endorses a history of panic attacks for which she
is prescribed Xanax. 

In the ED, patient was calm and cooperative and did not require
any physical or chemical restraints. 

On admission to the inpatient psychiatric unit, patient voices
multiple times that she is fine and does not need to be in the
hospital. She says that her family and therapist were concerned
because she wasn't talking to them. She denies current suicidal
ideation, intent or plan. She endorses feeling safe on the unit
but says her goal is to "get the hell out of here." She is
concerned about having enough access to her computer to study 
for
her last final exam (initially scheduled for today). She agrees
to notify staff if she begins to feel unsafe or if she has urges
to engage in self harm. 

REVIEW OF SYSTEMS:
Psychiatric: As per HPI
 -General: Endorses joint pain, mostly in hips. Denies fever,
chills,  headache, focal numbness, focal
weakness, changes in vision, changes in hearing, heat
intolerance, cold intolerance, polyuria, polydipsia, cough, SOB,
CP, palpitations, abdominal pain, nausea, vomiting, diarrhea,
constipation, rash and skin changes. 

During initial meeting with inpatient team: 
Patient is adamant that she doesn't need to be in the hospital. 
She said: "I am fine". She admits hx of affective/mood 
lability:"I fluctuate a lot" (reports that her mood could change 
in minutes). She admits hx of low self esteem, chronic 
depression, difficulties coping with stress and strong emotions. 
She recognizes issue with impulsivity. In the context of stress 
at school and being
socially isolated (conflicts with friend), she noticed worsening 
of depression within last ___ wks. She reports that she "felt 
really suicidal" two weeks ago when she cut herself. She didn't 
ask for help at that time. In the context of conflict with 
parents on the phone, she told her parents that they don't know
what she is going through. She told parents about episode of 
self injurious behavior two weeks ago. Pt's became 
understandably worried. Pt were in touch with pt on a daily 
basis. When pt didn't answer the phone and missed an appointment 
with therapist, parents called police to do well check. ___ 
police came to pt's apartment (on campus) and brought her for 
evaluation.

Ms. ___ reports that affective instability is chronic issue. At 
the time of interview, she reported: "I am fine". On psychiatric 
ROS, reports hx of anxiety, feeling fatigued, poor sleep with 
initial insomnia and going to bed late. no sx's of psychosis.

She is open to the idea to change her medications. She thinks 
that Zoloft stopped working for her (she has been on it since 
age ___. She also recognizes need to have psychiatrist. She 
stopped seeing psychiatrist after disagreement about diagnosis 
(he thought pt has Bipolar dos).

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Hospitalizations: No prior psychiatric inpatient
hospitalizations. Did spend 15 months in residential treatment
facility ___, ___
-Past diagnoses:  Per patient, GAD, ODD, ADHD, OCD tendencies,
anorexia in partial remission, borderline personality disorder
 Medication and ECT trials: Zoloft, Trazodone, gabapentin, 
Xanax,
methylphenidate, Lamictal, lithium 
-Current treaters and treatment: ___- current
therapist in ___, no psychiatrist
-Suicide attempts: Two (+?) prior suicide attempts by cutting
wrists, never sought medical treatment
-Self-injury: History of cutting, last 2 weeks ago. History of
burning with hair curling iron, last ___ year ago. Also has 
history of restrictive eating/purging
-Trauma: Endorses emotional abuse from her mother throughout 
life, sexual assault in college (___
 Harm to others: Denies 
 Access to weapons: Denies access to guns

PAST MEDICAL HISTORY:
-Diagnoses:
?Fibromyalgia
-PCP:Dr. ___ in ___ (___)
 
-Denies history of head trauma, seizure.

 
Social History:
___
Family History:
FH: both parents deal with anxiety/OCD. Mother-depression (was 
on
Zoloft, Effexor in the past).

 
Physical Exam:
EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: bilateral superficial wrist lacerations, previous scars
from cutting on bilateral forearms/wrists and left upper thigh 

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consensually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  .  

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: age appearing Caucasian female, well groomed,
wearing hospital gown, with nasal septum pierced, in no apparent
distress
 -Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "I'm fine"
 -Affect: Mood-congruent, euthymic, full range, appropriate to
situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies suicidal ideation, intent or plan, denies HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Limited
 -Judgment: Poor

 
Pertinent Results:
CBC
___ 06:42PM   WBC-5.3 RBC-4.47 HGB-13.2 HCT-39.5 MCV-88 
MCH-29.5 MCHC-33.4 RDW-12.7 RDWSD-41.1
.
Metabolic
___ 06:42PM   GLUCOSE-92 UREA N-11 CREAT-0.9 SODIUM-143 
POTASSIUM-4.8 CHLORIDE-105 TOTAL CO2-28 ANION GAP-10
___ 06:39AM BLOOD ALT-35 AST-23 AlkPhos-72 TotBili-0.7
___ 06:39AM BLOOD VitB12-720 Folate-14
___ 06:39AM BLOOD %HbA1c-4.7 eAG-88
___ 06:39AM BLOOD Triglyc-101 HDL-47 CHOL/HD-4.6 
LDLcalc-148*
___ 06:39AM BLOOD TSH-1.1
.
Toxicology
___ 10:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:42PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

 
Brief Hospital Course:
___ is a ___ year old female BU student with a history
of depression, anxiety, borderline personality disorder, two
prior reported suicide attempts by ___, who was sent in on a
S12 after parents called campus police due to concern for
patient's safety. 
..
DSM 5 DIAGNOSES:  
Borderline personality disorder
major depressive disorder
unspecified anxiety disorder
.
PLAN:
1) Legal/Safety:
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient ***was/was not 
deemed to be at risk of harm to self/others due to _____, so a 
Section ___ was filed with the district court (or the patient 
was discharged).  He/She was also placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
2) Psychiatric:
On admission patient is adamant that she doesn't need to be in 
the hospital. She reports "fine mood" and denies suicidal 
ideation, intent or plan currently, though does endorse cutting 
her wrist in s/o suicidal thoughts 2 weeks prior to admission 
and not seeking help.  Collateral from parents and therapist 
concerning for worsening depression (isolation, depressed mood), 
suicidal threats, and overall concern for patient's safety. Pt 
observed with full range of affect, logical and linear thought 
process, repeatedly denying SI, intent, plan, HI and AVH, with 
limited insight and judgment. 
.
Presentation most consistent with borderline personality 
disorder, in s/o academic stressors and lack of outpatient 
psychopharm ___, with worsening mood lability, impulsivity 
(self-harm), and unstable relationships.  Presentation also
concerning for depression, given depressed mood, isolation, 
anhedonia, sleep disturbances, difficulty concentrating, leading 
to missed appointments and problems completing semester. 
.
Patient was encouraged to engage in group, milieu and 
occupational therapy.
.
-She was continued on home medications including: 
---Sertraline 150 mg PO/NG QHS
---TraZODone 50 mg PO/NG QHS
---Gabapentin 300 mg PO/NG QHS
She was offered numerous medication adjustment options, 
including switching to an alternative antidepressant, starting a 
mood stabilizer, or low dose atypical antipsychotic.  
She ultimately agreed to start:
---ARIPiprazole 2 mg PO/NG QHS
Risks and benefits of the medication were described and all 
patient questions were answered. 
.

3) Substance Use Disorders
# Denies any significant substance use
.
4) Medical:
# Hyperlipidemia-- LDL 148 on admission.  Encouraged healthy 
diet, exercise, and PCP ___.
.
5) Social Work/Disposition
-On day of admission (___) conference calls were held with 
patient, SW, physician, and each of the patient's parents.  
Father ___ MD, ___ stated patient was 
adult and wanted her to work out her care plan on her own, but 
offered that parents were available to pick her up if necessary. 
 Mother ___ ___ was concerned about 
patient's safety given recent suicidal gestures and wanted to 
make sure her therapist was involved in inpatient assessment.  
Both parents felt patient needed an outpatient psychiatrist and 
medication adjustments, stating that her meds didn't seem 
effective in controlling mood lability since ___. Both felt 
strongly that lithium was not helpful and disrupted her 
"Equilibrium".
- Therapist ___ (therapist) ___ was 
contacted on day of admission and spoke with SW on ___.  She 
reiterated not feeling patient was safe for outpatient care at 
this time given numerous suicidal remarks from patient reported 
by her mother to the therapist and limited communication. 
Therapist felt lamotrigine and lithium were both effective and 
patient did well while seeing Dr. ___ psychiatrist).  
 
.
---Psychiatrist: none currently, previously ___ (___),
___ ___, until ___
---Therapist: ___ (therapist) ___
---PCP: Dr. ___ in ___ (pediatrician)

On ___, Ms. ___ reported that she is doing well. She 
continued to request being discharged. As she also accomplished 
task of finding psychiatrist. She shared that she spoke with Dr. 
___ from the ___). He 
agreed to see her on the outpatient basis (Dr. ___ worked 
on the unit during the weekend).
Ms. ___ reported that her mood is "solid".  She got enough sleep 
despite interruptions from her loud room mate. She clearly 
denied S/H/I. She shared about positive plans. She will be 
starting partial hospital program at the ___ 
in ___. Primary team also set up appointments for pt's ___ PCP ___ 
___.
On medical ROS, Ms. ___ denied any complains. Denied 
pain/N/V/D/C/fever/chills. She denied any side effects from the 
medications. She plans to continue them and to work with 
outpatient provider.
Pt's mother was contacted. She is in ___. She plans to pick 
up Ms. ___ and bring her home to ___ for school vacation.

PROGNOSIS: Considering pt's chronic mood disorder and hx of self 
injurious behavior, she has chronic elevated risk for self. 
However, she has several important strengths and protective 
factors. She was able to move forward with her life. She is 
intelligent person, she has good academic performance, she is 
able to build good working relationship with her therapist, she 
has support network. She also noticed benefit from structure of 
inpatient unit, medications including Abilify.
Overall prognosis is guarded. It will improve if patient is able 
to engage into ongoing outpatient psychiatric treatment 
including therapy and psychopharm management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO QHS 
2. Gabapentin 300 mg PO QHS 
3. TraZODone 50 mg PO QHS 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO QHS 
RX *aripiprazole [Abilify] 2 mg one tablet(s) by mouth at 
bedtime Disp #*15 Tablet Refills:*0 
2.  Gabapentin 300 mg PO QHS 
RX *gabapentin 300 mg one capsule(s) by mouth at bedtime Disp 
#*15 Capsule Refills:*0 
3.  Sertraline 150 mg PO QHS 
RX *sertraline 100 mg one and a half tablet(s) by mouth at 
bedtime Disp #*21 Tablet Refills:*0 
4.  TraZODone 50 mg PO QHS 
RX *trazodone 50 mg one tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
borderline personality disorder
unspecified mood disorder

 
Discharge Condition:
Awake, alert, oriented. No signs of acute medical distress.
Ambulating independently, unremarkable gait, no focal 
neurological sx's.
Alert, friendly, engaged in the interview. Speech spontaneous, 
fluent in normal rate and prosody.
Denied any complains. Described mood as 'good...pretty solid'.
Affect euthymic, reactive, appropriate to topics of 
conversation.
Denies SI, HI, AVH. She described appropriate steps she could 
make in case of emergency or worsening of her sx's. She said 
that she would use her coping strategies, she would reach out to 
her providers, or call ___ to the ED. Her insight and 
judgment are grossly intact.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___